US07202256B2
The synthesis requires two steps. The first step is a microbial lipase-catalyzed acylation of rapamycin with an activated ester of 2,2-bis(hydroxymethyl)propionic acid derivative in an organic solvent. This reaction is highly regioselective, resulting in the exclusive formation of mono-42-acylated product (i.e., protected CCI-779), in nearly quantitative yield. Subsequent deprotection furnishes CCI-779 in excellent overall yield. Compared with chemical preparation, this chemo-enzymatic route offers a much shorter procedure with higher yield. Further, this method does not require any steps to protect the rapamycin's 31-OH group.

reactant | rapamycin | C[C@@H]1CC[C@H]2C[C@@H](/C(=C/C=C/C=C/[C@H](C[C@H](C(=O)[C@@H]([C@@H](/C(=C/[C@H](C(=O)C[C@H](OC(=O)[C@@H]3CCCCN3C(=O)C(=O)[C@@]1(O2)O)[C@H](C)C[C@@H]4CC[C@H]([C@@H](C4)OC)O)C)/C)O)OC)C)C)/C)OC | C51H79NO13
reactant | 2,2-bis(hydroxymethyl)propionic acid | OCC(C(=O)O)(C)CO | C5H10O4
product | CCI-779 | quantitative yield | C[C@@H]1CC[C@H]2C[C@@H](/C(=C/C=C/C=C/[C@H](C[C@H](C(=O)[C@@H]([C@@H](/C(=C/[C@H](C(=O)C[C@H](OC(=O)[C@@H]3CCCCN3C(=O)C(=O)[C@@]1(O2)O)[C@H](C)C[C@@H]4CC[C@H]([C@@H](C4)OC)OC(=O)C(C)(CO)CO)C)/C)O)OC)C)C)/C)OC | C56H87NO16
